US08357717B2
Structural unit A-10: Methyl 2-(5,6,7,8-tetrahydro-1,8-naphthyridin-2-yl)acetate hydrochloride
tert-Butyl 7-(2-methoxy-2-oxoethyl)-3,4-dihydro-1,8-naphthyridine-1(2H)-carboxylate (1 eq.) (CAS [925889-81-2], available commercially from Fluorochem, for example) was dissolved in methanol (1.6 ml); hydrogen chloride in methanol (1.25 M, 5 equiv.) was added, and the mixture was heated to boiling temperature. After 1 h, the solvent was removed in vacuo and the residue so obtained was used directly in the following stage. Yield: >99%

reactant | tert-Butyl 7-(2-methoxy-2-oxoethyl)-3,4-dihydro-1,8-naphthyridine-1(2H)-carboxylate | 1 eq. | COC(CC1=CC=C2CCCN(C2=N1)C(=O)OC(C)(C)C)=O | C16H22N2O4
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 1.6 ml | CO | CH4O
solvent | methanol | 1.25 M, 5 equiv. | CO | CH4O
product | Methyl 2-(5,6,7,8-tetrahydro-1,8-naphthyridin-2-yl)acetate hydrochloride | Yield: >99% | Cl.N1=C(C=CC=2CCCNC12)CC(=O)OC | InChI=1S/C11H14N2O2.ClH/c1-15-10(14)7-9-5-4-8-3-2-6-12-11(8)13-9;/h4-5H,2-3,6-7H2,1H3,(H,12,13);1H
